US08022062B2
Slurry palladium(II) acetate (434 mg, 1.9 mmol), BINAP (1.2 g, 1.9 mmol), sodium-tert-butoxide (644 mg, 6.7 mmol), cyclohexylamine (1.4 g, 14.4 mmol) and 3-tert-butoxycarbonyl-7-chloro-6-(6-chloro-pyridin-3-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (2.1 g, 4.8 mmol) in anhydrous toluene (70 mL). Degas the slurry under house vacuum, then buble nitrogen. Heat the mixture to 95° C. for 16 h under a nitrogen atmosphere. Cool the mixture to room temperature, dilute with EtOAc (50 mL) and filter through Celite®. Concentrate the filtrate to an oil and purify by chromatography on silica gel eluting with hexane/EtOAc (19:1 to 13:7 gradient) to obtain 3-tert-butoxycarbonyl-7-chloro-6-(6-cyclohexylamino-pyridin-3-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (800 mg, 33%). MS (ES+) m/z: 502.2 (M+H)+.

reactant | BINAP | 1.9 mmol, 1.2 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium-tert-butoxide | 6.7 mmol, 644 mg | CC(C)([O-])C.[Na+]
reactant | cyclohexylamine | 14.4 mmol, 1.4 g | C1(CCCCC1)N | C6H13N
reactant | 3-tert-butoxycarbonyl-7-chloro-6-(6-chloro-pyridin-3-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 4.8 mmol, 2.1 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC=2C=NC(=CC2)Cl | C21H24Cl2N2O2S
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 1.9 mmol, 434 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-tert-butoxycarbonyl-7-chloro-6-(6-cyclohexylamino-pyridin-3-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 800 mg, 33% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC=2C=NC(=CC2)NC2CCCCC2 | C27H36ClN3O2S
